US08957066B2
(E)-methyl 3-(1-((1-methylpiperidin-4-yl)methyl)-1H-pyrazol-4-yl)acrylate
Triphenylphosphine (393 mg, 1.5 mmol) and (E)-methyl 3-(1H-pyrazol-4-yl)acrylate, prepared as described above, (12 mg, 1 mmol) were added to a solution of N-methyl-4-hydroxymethyl-piperidine (165 mg, 1.25 mmol) in tetrahydrofuran (THF, 2 mL). After addition of di-tert-butyl azodicarboxylate (345 mg, 1.5 mmol), the reaction was stirred overnight at room temperature. Solvents were evaporated under reduced pressure and the residue was purified by silica gel chromatography using a gradient of Hexane in EtOAc from 1:1 to 0:100 v/v. Fractions containing product were pooled and evaporated to give 220 mg of pure material (0.84 mmol, 84%).

reactant | Triphenylphosphine | 1.5 mmol, 393 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | (E)-methyl 3-(1H-pyrazol-4-yl)acrylate | N1N=CC(=C1)/C=C/C(=O)OC | C7H8N2O2
reactant | N-methyl-4-hydroxymethyl-piperidine | 1.25 mmol, 165 mg | CN1CCC(CC1)CO | C7H15NO
reactant | di-tert-butyl azodicarboxylate | 1.5 mmol, 345 mg | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | (E)-methyl 3-(1-((1-methylpiperidin-4-yl)methyl)-1H-pyrazol-4-yl)acrylate | 0.84 mmol, 220 mg, 84% | CN1CCC(CC1)CN1N=CC(=C1)/C=C/C(=O)OC | C14H21N3O2
